US03943260
f. Dithenyl sulfide was prepared by the same method as used for compound (1) b. (diethenyl ether) of Group X above, except that thenylmercaptan was used instead of thenyl alcohol. The product has a b.p. of 118°C./0.04 mm. Hg.

reactant | diethenyl ether | C(=C)OC=C | C4H6O
reactant | thenylmercaptan | C1(=CC=CS1)CS | C5H6S2
product | Dithenyl sulfide | C1(=CC=CS1)CSCC1=CC=CS1 | C10H10S3
